US04252803
(i) 2-[2-(5-Bromo-1H-indol-3-yl)ethyl]-1H-isoindole-1,3(2H)-dione
4-[1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl]butanal diethyl acetal (11.6 g) was added with vigorous stirring to a solution of 4-bromophenylhydrazine hydrochloride (9.0 g) in 50% aqueous acetic acid (370 ml). The mixture was heated on a steam bath for 4 hours and was then diluted with water, while still hot, to 1 l. The mixture was cooled and an orange yellow precipitate was filtered off and dried in vacuo. The solid was boiled in ethanol (250 ml) for 1 hour and residual solid filtered off and dried to afford the title compound as a yellow solid (9.5 g) m.p. 206°-209° C. Crystallisation of a portion of this solid (0.5 g) from ethanol (25 ml) gave a sample (0.25 g) m.p. 208°-212° C.

reactant | 4-[1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl]butanal diethyl acetal | 11.6 g | C(C)OC(CCCN1C(C2=CC=CC=C2C1=O)=O)OCC | C16H21NO4
reactant | 4-bromophenylhydrazine hydrochloride | 9.0 g | Cl.BrC1=CC=C(C=C1)NN
solvent | acetic acid | 370 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[2-(5-Bromo-1H-indol-3-yl)ethyl]-1H-isoindole-1,3(2H)-dione | 9.5 g | BrC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C18H13BrN2O2
